US04175131
Ethyl N-butyl-N-(4-methyl-2-oxazolyl)-carbamate
Ethyl chloroformate (10.5 ml, 0.11 mol) was added dropwise over 20 minutes to a stirred solution of 2-butylamino-4-methyl oxazole (15.4 g, 0.10 mol) and triethylamine (15.3 ml, 0.11 mol) in dry ether (100 ml) cooling to 5°-10° C. The mixture was stirred for a further 2 hours at ambient temperature, the white solid was filtered off and the filtrate evaporated under vacuum to a pale oil (22.4 g) NMR (CCl4) 6.3 δ (oxazole 5-H). This 3-acylated compound was dissolved in xylene and the solution was heated under reflux for 2 hours, cooled, washed with dilute HCl, saturated NaCl solution, dilute Na2CO3 and NaCl solution again, dried and evaporated. The residue was distilled under vacuum, b.p. 85°-90° C./0.6 mm NMR (CCl4) 7.12 δ (oxazole 5-H).

reactant | Ethyl chloroformate | 0.11 mol, 10.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-butylamino-4-methyl oxazole | 0.10 mol, 15.4 g | C(CCC)NC=1OC=C(N1)C | C8H14N2O
reactant | triethylamine | 0.11 mol, 15.3 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 100 ml | CCOCC | C4H10O
product | Ethyl N-butyl-N-(4-methyl-2-oxazolyl)-carbamate | C(CCC)N(C(OCC)=O)C=1OC=C(N1)C | C11H18N2O3
